US04803200
2-[(2-Methoxyethyl)amino]-1-phenylpropanol
2-[(2-Methoxyethyl)amino]-1-phenyl-1-propanone hydrochloride as prepared in Preparation 5 is converted to the free base by mixing it with methylene chloride and a dilute basic aqueous solution, e.g., sodium hydroxide, separating the organic layer and evaporating the solvent. The residue, the free base is then reduced with sodium borohydride in ethanol to give the title compound which is then isolated by conventional means.

reactant | 2-[(2-Methoxyethyl)amino]-1-phenyl-1-propanone hydrochloride | Cl.COCCNC(C(=O)C1=CC=CC=C1)C
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-[(2-Methoxyethyl)amino]-1-phenylpropanol | COCCNC(C(O)C1=CC=CC=C1)C | C12H19NO2
